US07863270B2
To a stirred solution of equimolar amount of 2-(2-hydroxy-ethylamino)-ethanol and dimethylcarbonate in ethanol (10 mL/g) was added 0.1 eqv. of sodium ethoxide. The mixture thus obtained was refluxed for 3 h and cooled. The mixture was concentrated, then dissolved in dichloromethane. It was then passed through a short pad of silica gel, washed with ethylacetate successively and concentrated to obtain 3-(2-hydroxy-ethyl)-oxazolidin-2-one as colorless oil. The product was used without further purification.

reactant | 2-(2-hydroxy-ethylamino)-ethanol | OCCNCCO | C4H11NO2
reactant | dimethylcarbonate | COC(OC)=O | C3H6O3
reactant | sodium ethoxide | 0.1 eqv. | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 3-(2-hydroxy-ethyl)-oxazolidin-2-one | OCCN1C(OCC1)=O | C5H9NO3
